US07238714B2
Step 1. Methyl 5-bromo-2-(4-fluorophenoxy)nicotinate
The title compound was prepared according to the procedure described in step 1 of Example 56 from methyl 5-bromo-2-chloronicotinate (J. Org. Chem. 1989, 54, 3618–3624) and 4-fluorophenol: 1H-NMR (CDCl3) δ 8.37 (1H, d, J=2.5 Hz), 8.27 (1H, d, J=2.5 Hz), 7.10 (2H, d, J=6.2 Hz), 3.95 (3H, s); MS (ESI) m/z 326 (M+H)+.

reactant | methyl 5-bromo-2-chloronicotinate | BrC=1C=NC(=C(C(=O)OC)C1)Cl | C7H5BrClNO2
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | Methyl 5-bromo-2-(4-fluorophenoxy)nicotinate | BrC=1C=NC(=C(C(=O)OC)C1)OC1=CC=C(C=C1)F | C13H9BrFNO3
